US04478833
2-(2-Hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-8-phenylthio-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-4-(1-oxido-thiomorpholino)-8-phenylthiopyrimido[5,4-d]pyrimidine (melting point: 253°-255° C.) and 2-hydroxyethyl-amine.

reactant | 2-chloro-4-(1-oxido-thiomorpholino)-8-phenylthiopyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=CC=C2)N2CCS(CC2)=O | C16H14ClN5OS2
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 2-(2-Hydroxyethyl-amino)-4-(1-oxido-thiomorpholino)-8-phenylthio-pyrimido[5,4-d]pyrimidine | OCCNC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=CC=C2)N2CCS(CC2)=O | C18H20N6O2S2
